US08283353B2
4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A solution of N-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1H-pyrazol-5-amine (2.8 g), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.30 mL) and ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate (7.0 g) in diethylaniline (15 mL) was stirred at 180° C. for 8 hr. The mixture was allowed to cool, tetrahydrofuran (5 mL) and tetrabutylammonium fluoride (1.0 M tetrahydrofuran solution, 5 mL) were added, and the mixture was stirred for 1 hr. To the reaction mixture were added ethyl acetate and saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (3.5 g, 79%).

reactant | N-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-1H-pyrazol-5-amine | 2.8 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC1=CC=NN1 | C15H23N3OSi
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.30 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl 2-[(2′-cyanobiphenyl-4-yl)methyl]-3-oxohexanoate | 7.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC(C(=O)OCC)C(CCC)=O | C22H23NO3
reactant | tetrabutylammonium fluoride | 1.0 M, 5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethylaniline | 15 mL | CCN(CC)C=1C=CC=CC1 | C10H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4′-{[4-(4-hydroxyphenyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 3.5 g, 79% | OC1=CC=C(C=C1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C29H24N4O2
